US04634705
5,7-Dichloro-6-hydroxy-1-tetralone
A solution of 6-hydroxy-1-tetralone (1.62 g) in chloroform (100 ml) was treated with t-butyl hypochlorite (2.3 ml) dropwise at room temperature. After 1.5 hours the reaction was diluted with chloroform and quenched with aqueous sodium bisulfite. The organic layer was separated, washed with brine, dried and evaporated in vacuo affording the desired product in 96% yield. Recrystallized from hot ethyl acetate yielded (1 g) of needles.

reactant | 6-hydroxy-1-tetralone | 1.62 g | OC=1C=C2CCCC(C2=CC1)=O | C10H10O2
reactant | t-butyl hypochlorite | 2.3 ml | ClOC(C)(C)C | C4H9ClO
reactant | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 5,7-Dichloro-6-hydroxy-1-tetralone | 96% yield | ClC1=C2CCCC(C2=CC(=C1O)Cl)=O | C10H8Cl2O2
